US08110575B2
Step 2: 6-Chloro-N-phenyl-N-(2,2,2-trifluoroethyl)pyrimidine-4-carboxamide
200 mg (1.14 mmol) N-(2,2,2-trifluoroethyl)aniline and 1.14 mL (1.14 mmol) of a 1M sodium hydroxide solution were added dropwise to 212 mg (1.2 mmol) 6-chloropyrimidine-4-carboxylic acid chloride in 20 mL dichloromethane while cooling with a bath of ice and ethanol. The mixture was first stirred for 2 h with cooling and then stirred for 1 h at RT. 50 mL of a saturated sodium hydrogen carbonate solution were added and the mixture was stirred for 10 min. The organic phase was separated off, washed with water and 1M hydrochloric acid, dried on sodium sulphate, filtered and concentrated by rotary evaporation i.vac.

reactant | N-(2,2,2-trifluoroethyl)aniline | 1.14 mmol, 200 mg | FC(CNC1=CC=CC=C1)(F)F | C8H8F3N
reactant | sodium hydroxide | 1M | [OH-].[Na+]
reactant | 6-chloropyrimidine-4-carboxylic acid chloride | 1.2 mmol, 212 mg | ClC1=CC(=NC=N1)C(=O)Cl | C5H2Cl2N2O
reactant | sodium hydrogen carbonate | 50 mL | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | 6-Chloro-N-phenyl-N-(2,2,2-trifluoroethyl)pyrimidine-4-carboxamide | ClC1=CC(=NC=N1)C(=O)N(CC(F)(F)F)C1=CC=CC=C1 | C13H9ClF3N3O
